US07423012B2
Butyllithium (1.6 M in hexane, 14.8 ml, 23.7 mmol) was added dropwise to a solution of 2-(diethoxy-phosphoryl)-succinic acid 4-benzyl ester 1-tert-butyl ester (9.50 g, 23.7 mmol in THF (75 mL) at 0° C. under nitrogen. After stirring at 0° C. for 1 h, the solution was transferred to a solution of (4-Formyl-pyridin-2-yl)-carbamic acid tert-butyl ester (3.70 g, 16.6 mmol) in THF (75 mL). The resulting reaction mixture was stirred at 0° C. for 1 h before being allowed to warm to 25° C., and the mixture was stirred overnight. Water (400 mL) was added and the product extracted with CH2Cl2 (3×50 mL). The combined organic layers were dried and concentrated. Flash chromatography (hexane/EtOAc, 4:1) gave 2-(2-tert-Butoxycarbonylamino-pyridin-4-ylmethylene)-succinic acid 4-benzyl ester 1-tert-butyl ester 4.30 g (55%).

reactant | Butyllithium | 23.7 mmol, 1.6 M, 14.8 ml | C(CCC)[Li]
reactant | 2-(diethoxy-phosphoryl)-succinic acid 4-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(C(CC(=O)OCC1=CC=CC=C1)P(=O)(OCC)OCC)=O | C19H29O7P
reactant | (4-Formyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 16.6 mmol, 3.70 g | C(C)(C)(C)OC(NC1=NC=CC(=C1)C=O)=O | C11H14N2O3
reactant | Water | 400 mL | O | H2O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 2-(2-tert-Butoxycarbonylamino-pyridin-4-ylmethylene)-succinic acid 4-benzyl ester 1-tert-butyl ester | 4.30 g, 55% | C(C)(C)(C)OC(C(CC(=O)OCC1=CC=CC=C1)=CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C26H32N2O6
